US04045576
2-Dimethylamino-3-benzoylphenylacetic Acid.
A mixture of 500 mg. (1.85 mmole) of methyl 2-dimethylamino-3-benzoylphenylacetate and 15 ml. of 3N sodium hydroxide was refluxed for 1.5 hr. under nitrogen. The cooled filtered reaction mixture was diluted with an equal volume of water and neutralized with glacial acetic acid. The precipitate which formed could not be recrystallized and was therefore dissolved in benzene and placed on a magnesium silicate column. The column was eluted with benzene-acetone to give 300 mg. of product which melted at 144°-146° C. after recrystallization from benzene-isooctane.

reactant | methyl 2-dimethylamino-3-benzoylphenylacetate | 1.85 mmole | CN(C1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)OC)C | C18H19NO3
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Dimethylamino-3-benzoylphenylacetic Acid | CN(C1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O)C | C17H17NO3
